US08357679B2
B: 2-(4-((4-(3-Aminobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
To a stirred suspension of 1,1,1,3,3,3-hexafluoro-2-(4-((4-(3-nitrobenzyl)piperazin-1-yl)methyl)phenyl)propan-2-ol (2.095 mmol, 1 g) and iron powder (20.95 mmol, 1.170 g) in 2-propanol was added a small volume of hydrochloric acid (37%). The reaction was refluxed for 2 hours then was allowed to cool to room temperature. The reaction was diluted with dichloromethane and solid potassium carbonate was added. The suspension was stirred for 18 hours then was filtered through celite. The filtrate was concentrated under reduced pressure then was purified by silica chromatography eluting with ethyl acetate to give the title compound (600 mg). MS (ESI) m/z 448.3 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((4-(3-nitrobenzyl)piperazin-1-yl)methyl)phenyl)propan-2-ol | 2.095 mmol, 1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C21H21F6N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | iron | 20.95 mmol, 1.170 g | [Fe] | Fe
product | 2-(4-((4-(3-Aminobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 600 mg | NC=1C=C(CN2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC1 | C21H23F6N3O
